US07429581B2
(i) 5-Hydroxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester
A solution of 2 g Prop-2-yn-1-ol and 3 g Ethyl diazoacetate in 16 ml trichloromethane was stirred at 70° C. for 24 h. Then the solvent was removed under reduced pressure and the residue was purified on silica gel eluting with a gradient n-heptane/ethyl acetate 1:1->1:2. The fractions containing the product were collected and evaporated under reduced pressure. Yield: 1.9 g.

reactant | Prop-2-yn-1-ol | 2 g | C(C#C)O | C3H4O
reactant | Ethyl diazoacetate | 3 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | trichloromethane | 16 ml | ClC(Cl)Cl | CHCl3
product | 5-Hydroxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1)CO | C7H10N2O3
